US07452911B2
11a (4-bromo-thiophen-2-ylethynyl)-trimethyl-silane
Under an argon atmosphere 0.37 g (1.94 mmol) CuI, 2.24 g (1.94 mmol) tetrakis-triphenylphosphane-palladium and 16.2 mL triethylamine are added to a solution of 10.0 g (38.85 mmol) 2,4-dibromothiophene in 300 mL THF, the reaction mixture is cooled to −78° C. and then at this temperature a solution of 5.6 mL (38.85 mmol) ethynyl-trimethyl-silane in 250 mL THF is slowly added dropwise. After the addition has ended the mixture is allowed to heat up slowly to RT and stirred overnight. The mixture is evaporated down i.vac., the residue is combined with water, extracted exhaustively with DCM and the combined organic phases are dried over MgSO4. After the desiccant and solvent have been eliminated the residue is triturated with PE, filtered to remove insoluble ingredients and the solvent is evaporated down. The residue is purified by chromatography (silica gel, PE).

reactant | triethylamine | 16.2 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dibromothiophene | 38.85 mmol, 10.0 g | BrC=1SC=C(C1)Br | C4H2Br2S
reactant | ethynyl-trimethyl-silane | 38.85 mmol, 5.6 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
catalyst | CuI | 1.94 mmol, 0.37 g | [Cu]I
product | (4-bromo-thiophen-2-ylethynyl)-trimethyl-silane | BrC=1C=C(SC1)C#C[Si](C)(C)C | C9H11BrSSi
